US08455522B2
Step 1: Synthesis of 1-(3-Bromo-pyridin-4-yl)-ethanol
A solution of methylmagnesium bromide (10.00 ml, 30.0 mmol) was added dropwise to a solution of 3-Bromo-pyridine-4-carbaldehyde (1.860 g, 10.00 mmol) in THF (30 mL) at −78° C. The resulting mixture was slowly warmed up to 0° C. over 3 h of period. The reaction was quenched by saturated NH4Cl solution. After extraction with ethyl acetate (50 mL×4), the combined extracts were dried over Na2SO4. After filtration and concentration, an oil residue was obtained, which turned into solid after standing (2.1 g). 1H NMR (400.3 MHz, CDCl3): δ 0.23 (d, J=8 Hz, 3H), 3.91 (m, 1H), 6.29 (d, J=4 Hz, 1H), 7.26 (d, J=4 Hz, 1H), 7.37 (s, 1H).

reactant | methylmagnesium bromide | 30.0 mmol, 10.00 ml | C[Mg]Br
reactant | 3-Bromo-pyridine-4-carbaldehyde | 10.00 mmol, 1.860 g | BrC=1C=NC=CC1C=O | C6H4BrNO
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-(3-Bromo-pyridin-4-yl)-ethanol | BrC=1C=NC=CC1C(C)O | C7H8BrNO
